US08283354B2
To a stirring solution of 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol (500 mg, 1.82 mmol) in CH2Cl2 (20 mL) at 0° C., under an N2 atmosphere was rapidly added a solution of piperazine (0.263 g, 7.28 mmol) and triethylamine (0.35 mL, 2.55 mmol) in CH2Cl2. The mixture was stirred for 1 h and then quenched with H2O, extracted twice with CH2Cl2, dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 0-5% MeOH in CH2Cl2 gave 2-(6-fluoro-4-(piperazin-1-yl)quinazolin-2-yl)phenol (400 mg, 68%). LC/MS: m/z 325.5 (M+H)+ at 2.12 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.42 (m, 1H), 7.97 (m, 1H), 7.78 (m, 2H), 7.39 (m, 1H), 6.95 (m, 2H), 3.83 (t, J=4.9 Hz, 4H), 2.92 (t, J=4.9 Hz, 4H).

reactant | 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol | 1.82 mmol, 500 mg | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O | C14H8ClFN2O
reactant | piperazine | 7.28 mmol, 0.263 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 2.55 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-fluoro-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 400 mg, 68% | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCNCC1 | C18H17FN4O
